US08134001B2
In a manner similar to the method described in example 1d, 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester (5 g, 15 mmol) was reacted with 1,1,3,3,3-hexamethyldisilazane (2.4 g, 15 mmol), n-butyllithium (2.5 M, 6 mL, 15 mmol), trimethylsilyl chloride (1.6 g, 15 mmol), triethylamine (2 g, 20 mmol) and acetyl chloride (1.5 g, 15 mmol) to give crude 1-[5-bromo-2-(4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester | 15 mmol, 5 g | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C15H11BrO4
reactant | 1,1,3,3,3-hexamethyldisilazane | 15 mmol, 2.4 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 15 mmol, 2.5 M, 6 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 15 mmol, 1.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 20 mmol, 2 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15 mmol, 1.5 g | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)C(=O)OC | C20H22BrNO4Si
